US08183262B2
A stirred mixture of 2-bromo-6-(tetrahydro-pyran-2-yloxymethyl)-4-(4-trifluoromethyl-phenyl)-pyridine (Example A.65) (0.400 g, 0.894 mmol), N-tert-butyl-3-(6-tributylstannanyl-pyridin-2-yl)-benzenesulfonamide (Example F.6) (0.518 g, 0.894 mmol), tetrakis(triphenyl-phosphine)palladium (0.052 g, 5 mol %) in toluene (5 mL) was heated under reflux conditions for 18 h. After cooling to rt, the reaction mixture was directly subjected to silica gel column chromatography with n-heptane/ethyl acetate to give the N-tert-butyl-3-[6′-(tetrahydro-pyran-2-yloxymethyl)-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonamide (550 mg, 98%) as a light yellow oil. MS (ISP) 626.0 [(M+H)+].

reactant | 2-bromo-6-(tetrahydro-pyran-2-yloxymethyl)-4-(4-trifluoromethyl-phenyl)-pyridine | 0.894 mmol, 0.400 g | BrC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)COC1OCCCC1 | C18H17BrF3NO2
reactant | N-tert-butyl-3-(6-tributylstannanyl-pyridin-2-yl)-benzenesulfonamide | 0.894 mmol, 0.518 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=NC(=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-tert-butyl-3-[6′-(tetrahydro-pyran-2-yloxymethyl)-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonamide | 550 mg, 98% | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)COC1OCCCC1 | C33H34F3N3O4S
